US08957252B2
Accordingly the compound (2R)-2-amino-N-benzyl-3-hydroxypropanamide of Formula-II is charged in solvent and the base is added at 0° C. Maintaining the temperature at 0°-10° C. the compound di-tert-butyl dicarbonate is added and the reaction is continued at 0° C.-30° C. The reaction is carried out for 2-8 hours, concentrated under reduced pressure below 45° C. to get the residual mass of tert-butyl [(R)-2-(benzylamino)-1-(hydroxymethyl)-2-oxoethyl]carbamate of Formula-XXI. The residual mass tert-butyl [(R)-2-(benzylamino)-1-(hydroxymethyl)-2-oxoethyl]-carbamate of Formula-XXI obtained is isolated using non-polar solvent selected from hexane, heptane, cyclohexane, toluene and xylene, wherein the preferred solvent used for isolation of the compound is cyclohexane.

reactant | (2R)-2-amino-N-benzyl-3-hydroxypropanamide | N[C@@H](C(=O)NCC1=CC=CC=C1)CO | C10H14N2O2
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl [(R)-2-(benzylamino)-1-(hydroxymethyl)-2-oxoethyl]carbamate | C(C1=CC=CC=C1)NC([C@@H](CO)NC(OC(C)(C)C)=O)=O | C15H22N2O4
